US05521170
A mixture of 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline (252 mg), diphenic anhydride (224 mg), triethylamine (202 mg) and catalytic amount of 4-dimethylaminopyridine in dichloromethane (15 ml) was stirred for 8 hours at ambient temperature. The mixture was evaporated in vacuo and diluted with ethyl acetate and washed with saturated sodium hydrogen carbonate aqueous solution, brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo and triturated from ethyl acetate to give 1-{4-[2-(2-carboxyphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline (400 mg).

reactant | 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline | 252 mg | NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H16N2O
reactant | diphenic anhydride | 224 mg | C=12C(C(=O)OC(C=3C2=CC=CC3)=O)=CC=CC1 | C14H8O3
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(2-carboxyphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline | 400 mg | C(=O)(O)C1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C30H24N2O4
